US04757081
To 200 ml of xylene were added 6.9 g (0.020 mole) of 1,5-bis(2-chlorophenyl)-2-methyl-1,3,5-pentanetrione, 25.5 g (0.20 mole) of 2-chloroaniline and 20.0 g of Molecular Sieves 5A. After heating the reaction mixture under reflux for 2 hours, the reaction mixture was poured into ice water, followed by addition of 200 ml of chloroform thereto and vigorous stirring of the resultant mixture. One hour later, the reaction mixture was filtered to remove solid matter. The organic layer was washed first wtih 50 ml of 10% hydrochloric acid and then with 50 ml of a 10% aqueous solution of sodium hydroxide. The mixture was washed further with water and was then dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off. The residue was purified by chromatography on a silica gel column (eluent: ethyl acetate) and then recrystallization from acetone to give 1.4 g of 1,2,6-tris(2-chlorophenyl)-3-methyl-4(1H)-pyridinone having a melting point of 205°-207° C.

reactant | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 1,5-bis(2-chlorophenyl)-2-methyl-1,3,5-pentanetrione | 0.020 mole, 6.9 g | ClC1=C(C=CC=C1)C(C(C(CC(=O)C1=C(C=CC=C1)Cl)=O)C)=O | C18H14Cl2O3
reactant | 2-chloroaniline | 0.20 mole, 25.5 g | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2,6-tris(2-chlorophenyl)-3-methyl-4(1H)-pyridinone | 1.4 g | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=C(C=CC=C1)Cl)=O)C)C1=C(C=CC=C1)Cl | C24H16Cl3NO
